US05380860
Ethyl-3-(2-chloro-4,5-difluorophenyl)-3-oxopropionate
A 400 liter glass-lined reactor was charged with 129 liters of dry tetrahydrofuran and 21.7 kg (2.1 equivalents) of potassium ethyl malonate. With slight cooling, 42.4 liters of 3M methyl magnesium chloride was added at a rate to keep the temperature between 20° to 50° C. After a 30 minute stir, the solution was cooled to 0° to -5° C. and 12.8 kg of 2-chloro-4,5-difluorobenzoyl chloride was added at a rate to keep the temperature between 0° and 5° C. The solution was then quenched into 106 liters of 2N HCl. After the addition of 72 liters of toluene, the aqueous layer was removed. The product layer was washed with 53 liters of saturated bicarbonate and salt solution. After removal of the aqueous layer, the product layer was concentrated to an oil and 28 liters of isopropyl alcohol were added. The solution was cooled to -10° to -15° C., granulated and the solids filtered and vacuum dried to give 14.17 Kg (first crop) and 588 g (second crop) of the title compound, 92.8% yield. The high field NMR of the product was typical of that for a mixture of the keto (5%) and enol (95%) forms of the title compound 300 MHz 1H (CDCl3): 12.5 (s, 0.95H), 7.5 (d of d, J=11 Hz, J'=8 Hz, 1H) 7.3 (d of d, J=11 Hz, J'=8 Hz, 1H), 5.6 (s, 0.95H), 4.3 (q, J=6H, 1.9H), 4.2 (q, J=6 Hz, 0.1H), 4.0 (s, 0.1H), 1.4 (t, J=6 Hz,2.85H), 1.2 (t, J=6 Hz, 0.15H).

reactant | potassium ethyl malonate | 21.7 kg, 2.1 equivalents | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | methyl magnesium chloride | 3M, 42.4 liters | C[Mg]Cl
reactant | 2-chloro-4,5-difluorobenzoyl chloride | 12.8 kg | ClC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2Cl2F2O
solvent | tetrahydrofuran | 129 liters | O1CCCC1 | C4H8O
product | Ethyl-3-(2-chloro-4,5-difluorophenyl)-3-oxopropionate | 92.8% yield | C(C)OC(CC(=O)C1=C(C=C(C(=C1)F)F)Cl)=O | C11H9ClF2O3
